US07459106B2
Preparation of 4-butylthiobenzaldhyde (63).
To a solution of 4-bromophenyl n-butyl sulfide (1.5 g, 6.12 mmol) in 60 ml of dry THF was added nBuLi (4.1 ml, 1.6 M in hexanes) at −78° C. under nitrogen. The mixture was stirred for 1 hour at −78° C. and then DMF (2.0 ml) was added. The reaction mixture was stirred at room temperature for 2 hours. Then 40 ml of water was added to this mixture, the product was extracted three times by ether (3×50 ml) and the combined organic layer was dried over magnesium sulfate. After removal of solvent under reduced pressure, the product was purified by flash chromatography column using 10% of ethyl acetate in hexanes as eluant and isolated in 66.7% (0.88 g) yield.1H NMR (CDCl3, 500 MHz) δppm: 9.98 (s, 1H, CHO), 7.77 (d, J=8.5 Hz, 2H), 7.36 (d, J=8.5 Hz, 2H,), 7.11 (s, 2H), 3.02 (t, J=7.2 Hz, 2H, CH2), 1.71 (m, 2H, CH2), 1.50 (m, 2H, CH2), 0.97 (t, J=7.5 Hz, 6H, CH3).

reactant | 4-bromophenyl n-butyl sulfide | 6.12 mmol, 1.5 g | C(CCC)SC1=CC=C(C=C1)Br | C10H13BrS
reactant | nBuLi | 1.6 M, 4.1 ml | [Li]CCCC
reactant | DMF | 2.0 ml | CN(C)C=O | C3H7NO
reactant | water | 40 ml | O | H2O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 4-butylthiobenzaldhyde | C(CCC)C1=CC=C(C=S)C=C1 | C11H14S
